US05385948
EXAMPLE 2--Preparation of butoxypropylamine
The previously prepared butoxypropionitrile (224.8 grams) was combined with Raney nickel (20 grams of 50/50 mixture with water) in a 1-liter stainless steel autoclave along with a premixed ethanol/ammonium hydroxide solution (37.5 grams of ammonium hydroxide and 212.5 grams of ethanol). The addition of the ammonium hydroxide limits the reaction that leads to the formation of by-product dibutoxypropylamine. After purging with nitrogen, the reactor was pressurized with 500 psi of hydrogen and heated to 60° C. After 20 hours at this temperature, the reactor was cooled to room temperature and the product discharged. The product was filtered to remove the Raney nickel and then distilled using a simple Vigreux column to extract the butoxypropylamine. The distillation produced a yield of about 79.5% of product and 18.3% of the secondary amine.

reactant | butoxypropionitrile | 224.8 grams | C(CCC)OC(C#N)C | C7H13NO
reactant | ethanol ammonium hydroxide | 37.5 grams | C(C)O.[OH-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | dibutoxypropylamine | C(CCC)OC(CCN)OCCCC | C11H25NO2
catalyst | Raney nickel | 20 grams | [Ni] | Ni
product | butoxypropylamine | yield of about 79.5% | C(CCC)OCCCN | C7H17NO
